US06451814B1
4-(4-{2-[2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}- phenylamino)-piperidine-1-carboxylic Acid 2-fluoro-4-hydroxy-benzylamide
4-[4-(2-Aminoethyl)anilino]-N-(4-{[tert-butyl(diphenyl)silyl]oxy}-2-fluorobenzyl)-1-piperidinecarboxamide formate (0.855 g, 1.3 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane according to Procedure G to give the title compound (0.24 g, 0.2 mmol).

reactant | 4-[4-(2-Aminoethyl)anilino]-N-(4-{[tert-butyl(diphenyl)silyl]oxy}-2-fluorobenzyl)-1-piperidinecarboxamide formate | 1.3 mmol, 0.855 g | C(=O)O.NCCC1=CC=C(NC2CCN(CC2)C(=O)NCC2=C(C=C(C=C2)O[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C)F)C=C1
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
product | 4-(4-{2-[2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}- phenylamino)-piperidine-1-carboxylic Acid 2-fluoro-4-hydroxy-benzylamide | 0.2 mmol, 0.24 g | FC1=C(CNC(=O)N2CCC(CC2)NC2=CC=C(C=C2)CCNCC(COC2=CC=C(C=C2)O)O)C=CC(=C1)O | C30H37FN4O5
